US07960369B2
methyl 4-[(2,3-dihydrobenzofuran-3-yl)oxy]benzenepropanoate
To a solution of 3-coumaranone (0.50 g, 3.7 mmol) in ethanol (20 mL) was added sodium tetrahydroborate (0.28 g, 7.5 mmol), and the mixture was stirred at room temperature for 1 hr. 0.5N Hydrochloric acid (10 mL) was added and the mixture was stirred at room temperature for 10 min. Saturated brine was added, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated. Tetrahydrofuran (10 mL), methyl 4-hydroxybenzenepropanoate (0.46 g, 2.6 mmol), triphenylphosphine (0.98 g, 3.8 mmol) and diethyl azodicarboxylate (0.91 mL, 4.7 mmol) were added to the residue, and the mixture was stirred at room temperature for 2 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=20:1) to give the title compound. yield 17%, oil.

reactant | 3-coumaranone | 3.7 mmol, 0.50 g | O1CC(C2=CC=CC=C12)=O | C8H6O2
reactant | sodium tetrahydroborate | 7.5 mmol, 0.28 g | [BH4-].[Na+]
reactant | Hydrochloric acid | 0.5N, 10 mL | Cl | ClH
reactant | methyl 4-hydroxybenzenepropanoate | 2.6 mmol, 0.46 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | triphenylphosphine | 3.8 mmol, 0.98 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.7 mmol, 0.91 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
solvent | Water | O | H2O
solvent | Tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl 4-[(2,3-dihydrobenzofuran-3-yl)oxy]benzenepropanoate | yield 17% | O1CC(C2=C1C=CC=C2)OC2=CC=C(C=C2)CCC(=O)OC | C18H18O4
